### PR TITLE
[bigop] Add lemma for boolean enumeration in bigops

### PR DESCRIPTION
**Pull request by ejgallego**
In some cases, such as in the proof in [1], when we have a bigop
over the boolean enumeration, we need to open the implementation
internals which is not optimal and moreover fragile.

We instead provide a helper lemma that expands a bigop over the
booleans with a concrete enumeration, and which is more
straightforward to use than `big_enumP`.

Note we require commutativity of the operator, this is to safeguard
against changes on the low-level `bool_enumP` enumeration.

Co-authored-by: Amel Kebbouche <akebbouc@outlook.fr>

cc: @Amel-Kebbouche

[1] https://github.com/math-comp/analysis/blob/7b53e30b53b96e5eb3cabe476b0191353191b52c/theories/altreals/distr.v#L336

##### Things done/to do

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md` (do not edit former entries)
- [ ] ~added corresponding documentation in the headers~

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-following,-reviewing-and-playing-with-a-PR#checklist-for-reviewing-a-pr) and make sure there is a milestone.

### CODE REVIEW

File: mathcomp/ssreflect/bigop.v [hunk 1]
```diff
@@ -1865,6 +1865,10 @@ Lemma big_all_cond :
   \big[andb/true]_(i <- r | P i) B i = all [pred i | P i ==> B i] r.
 Proof. by rewrite big_mkcond unlock. Qed.
 
+Lemma big_boolE R (idx : R) (op : R -> R -> R) (F : bool -> R):
+  \big[op/idx]_(i : bool) F i = op (F true) (op (F false) idx).
+Proof. by rewrite /index_enum !unlock. Qed.
```
Comment (CohenCyril) [inline mathcomp/ssreflect/bigop.v:1870]: @ejgallego would that be a problem for you to require the extra constraint that `op` a commutative monoid?

Comment (ejgallego) [reply mathcomp/ssreflect/bigop.v]: No problem at all I think, PR and commit message updated, thanks!

Now that we have added the commutativity condition on the operator, we could do the proof of this with `big_enumP`, but IMHO it is not worth, but let me know if you would like us to do so.

Comment (CohenCyril) [reply mathcomp/ssreflect/bigop.v]: BTW, there is no need for the `E`, I think `big_bool` is a good enough name.

Comment (ejgallego) [reply mathcomp/ssreflect/bigop.v]: Indeed, that was the original name @Amel-Kebbouche picked :) Will amend tomorrow.

File: CHANGELOG_UNRELEASED.md [hunk 2]
```diff
@@ -178,6 +178,8 @@ The format is based on [Keep a Changelog](https://keepachangelog.com/en/1.0.0/).
   `diagonalizableP`, `diagonalizable_conj_diag`, and
   `codiagonalizableP`.
 
+- in `bigop.v`, added lemma `big_boolE`.
```
Comment (CohenCyril) [inline CHANGELOG_UNRELEASED.md:181]:
```suggestion
- in `bigop.v`, added lemma `big_bool`.
```

File: mathcomp/ssreflect/bigop.v [hunk 3]
```diff
@@ -1865,6 +1865,10 @@ Lemma big_all_cond :
   \big[andb/true]_(i <- r | P i) B i = all [pred i | P i ==> B i] r.
 Proof. by rewrite big_mkcond unlock. Qed.
 
+Lemma big_boolE R (idx : R) (op : Monoid.com_law idx) (F : bool -> R):
```
Comment (CohenCyril) [inline mathcomp/ssreflect/bigop.v:1868]:
```suggestion
Lemma big_bool R (idx : R) (op : Monoid.com_law idx) (F : bool -> R):
```

File: mathcomp/ssreflect/bigop.v [hunk 4]
```diff
@@ -1865,6 +1865,10 @@ Lemma big_all_cond :
...
+  \big[op/idx]_(i : bool) F i = op (F true) (op (F false) idx).
```
Comment (CohenCyril) [inline mathcomp/ssreflect/bigop.v:1869]: BTW since `op` is now a monoid law this can be:
```suggestion
  \big[op/idx]_(i : bool) F i = op (F true) (F false).
```

File: mathcomp/ssreflect/bigop.v [hunk 5]
```diff
@@ -1865,6 +1865,10 @@ Lemma big_all_cond :
...
+Proof. by rewrite /index_enum !unlock. Qed.
```
Comment (CohenCyril) [inline mathcomp/ssreflect/bigop.v:1870]:
```suggestion
Proof. by rewrite /index_enum !unlock mulm1. Qed.
```

**Comment by ejgallego** [comment]
Thanks for the comments, good catch about the monoid identity, indeed it should be this way.
